US06140345
N-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)1-piperidinyl]-2-hydroxy-1-propyl]-1,2,3,4-tetrahydroisoquinoline dufumarate
A mixture of N-[3-(2,3-epoxy)propyl]-4-(6-fluoro-1,2-benzisoxaz-3-yl)piperidine (3.56 g, 12.9 mmol) and 1,2,3,4-tetrahydroisoquinoline (2.06 g, 15.4 mmol) in isopropyl alcohol (150 ml) was heated at reflux for 4 hours. At the end of the reaction, the solvent was removed. The residual oil was purified by flash chromatography over a silica gel column (SiO2, 45 g, eluted with 1% CH3OH: 99% methylene chloride). The product thus purified as a light oil, weighed 4.15 g. The oil was treated with a solution of fumaric acid (1.98 gm, 17 mmol) in ethanol. The white crystals so obtained were recrystallized in a large volume of hot ethanol (~150 ml). the recrystallized crystals weighed 2.75 g, m.p. 179-181° C.

reactant | N-[3-(2,3-epoxy)propyl]-4-(6-fluoro-1,2-benzisoxaz-3-yl)piperidine | 12.9 mmol, 3.56 g | O1C(CN2CCC(CC2)C2=NOC3=C2C=CC(=C3)F)C1 | C15H17FN2O2
reactant | 1,2,3,4-tetrahydroisoquinoline | 15.4 mmol, 2.06 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | fumaric acid | 17 mmol, 1.98 gm | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | N-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)1-piperidinyl]-2-hydroxy-1-propyl]-1,2,3,4-tetrahydroisoquinoline | FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(CN2CC3=CC=CC=C3CC2)O)C=C1 | C24H28FN3O2
